US07713993B2
Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylonitrile
A lithium hydroxide monohydrate powder (2.23 g) was added to a suspension of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (10 g) and diethyl cyanomethylphosphonate (8.2 g) in THF (50 ml) under ice-cooling, and the reaction solution was stirred at the same temperature for one hour. Ethyl acetate (200 mL) and water were added to the reaction solution, and the organic layer was separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then filtered through a silica gel pad (carrier: Chromatorex™ NH). The filtrate was concentrated under reduced pressure. The resulting residue was crystallized from ethyl acetate and hexane, and the crystals were collected by filtration. The resulting crystals were dried under reduced pressure to obtain 7.49 g of the title compound. The property values of the compound are as follows.

reactant | lithium hydroxide monohydrate | 2.23 g | O.[OH-].[Li+]
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 10 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | diethyl cyanomethylphosphonate | 8.2 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylonitrile | 7.49 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C#N | C14H13N3O
